* Simple RC Circuit for Time Constant Analysis

* Define components
V1 1 0 PULSE(0 1 1u 10n 10n 5u 10u)
R1 1 a 1k
C1 a 0 1n


.control
* Perform transient analysis
tran 1n 20u
plot V(1) V(a)
.endc
.end
